US05942628
Preparation of Tetrahydro-2,5-dioxo-4-methyl-3-furansulfonic Acid Sodium Salt (cis and trans diastereomers)
40 g 3-methyl-2-sulfosuccinic acid sodium salt (cis and trans diastereomers) was stirred with 50 g acetic anhydride and then heated to 86 degrees Centigrade while distilling over acetic acid for 1.5 hours. 100 mL ethyl acetate was added and the mixture was filtered. The precipitate was washed with 100 mL ethyl acetate. The precipitate was dried to produce 16.0 g yellowish-white solid. 1H-NMR (d6-DMSO) 3.40 ppm d J=10.52 Hz, 2.92-2.98 ppm m, 1.28-1.31 ppm m J=7.12 Hz.

reactant | 3-methyl-2-sulfosuccinic acid sodium salt | 40 g | [Na+].CC(C(C(=O)[O-])S(=O)(=O)O)C(=O)[O-].[Na+]
reactant | acetic anhydride | 50 g | C(C)(=O)OC(C)=O | C4H6O3
product | Tetrahydro-2,5-dioxo-4-methyl-3-furansulfonic Acid Sodium Salt | 16.0 g | [Na+].O=C1OC(C(C1S(=O)(=O)[O-])C)=O | InChI=1S/C5H6O6S.Na/c1-2-3(12(8,9)10)5(7)11-4(2)6;/h2-3H,1H3,(H,8,9,10);/q;+1/p-1
